US09388189B2
(S)-2-(1-((5-(2-(4-(Dimethylamino)piperidin-1-yl)pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(2-(4-(Dimethylamino)piperidin-1-yl)pyridin-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (12 mg, 0.02 mmol) was treated with trifluoroacetic acid (1 ml, 13 mmol) and a solution of ammonia (7N in methanol, 1 ml, 60 mmol) according to the method described in Example 27 to give 5 mg (50% yield) of the title compound as a solid. Purity 98%.

reactant | (S)-2-(1-((5-(2-(4-(Dimethylamino)piperidin-1-yl)pyridin-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.02 mmol, 12 mg | CN(C1CCN(CC1)C1=NC=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)C | C39H50N10O2Si
reactant | trifluoroacetic acid | 13 mmol, 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 60 mmol, 7N, 1 ml | N | H3N
product | (S)-2-(1-((5-(2-(4-(Dimethylamino)piperidin-1-yl)pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 5 mg, 50% yield | CN(C1CCN(CC1)C1=NC=CC(=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)C | C33H36N10O
